US08309542B2
(a) tert. Butyl (2S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-2-methanesulphonyloxymethyl-pyrrolidine-1-carboxylate
278.0 mg (0.8 mmol) tert. Butyl (2S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-2-hydroxymethyl-pyrrolidine-1-carboxylate are dissolved in 6 ml DCM and combined with 216 μl (1.5 mmol) triethylamine. 89 μl (1.2 mmol) methanesulphonic acid chloride are added while cooling with the ice bath. The reaction mixture is heated to RT and stirred for two hours. Then it is mixed with water and extracted three times with ethyl acetate. The combined organic phases are dried on sodium sulphate, filtered and evaporated down i. vac.

reactant | tert. Butyl (2S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-2-hydroxymethyl-pyrrolidine-1-carboxylate | 0.8 mmol, 278.0 mg | ClC1=CC=C(S1)C(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO | C15H21ClN2O4S
reactant | triethylamine | 1.5 mmol, 216 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulphonic acid chloride | 1.2 mmol, 89 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | tert. Butyl (2S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-2-methanesulphonyloxymethyl-pyrrolidine-1-carboxylate | ClC1=CC=C(S1)C(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)COS(=O)(=O)C | C16H23ClN2O6S2
